US05519040
To a solution of ammonium dithiocarbamate (0.19 g, 1.7 mmol) in 2 mL of ethanol was added 1-benzyloxycarbonyl-3-bromo-4-piperidone (0.53 g, 1.7 mol). The reaction was stirred at rt overnight. The next morning the reaction was heated at 75° C. for 2 h. The reaction was diluted with ethyl acetate and washed with saturated sodium bicarbonate, water (2X) and then brine. The solvent was removed under reduced pressure and the product subjected to flash chromatography (2:1 hexane/ethyl acetate). Crystallization from ethyl acetate/hexane afforded 0.14 g of 5-benzyloxycarbonyl-2-mercapto-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine.

reactant | ammonium dithiocarbamate | 1.7 mmol, 0.19 g | C(N)([S-])=S.[NH4+]
reactant | 1-benzyloxycarbonyl-3-bromo-4-piperidone | 1.7 mol, 0.53 g | C(C1=CC=CC=C1)OC(=O)N1CC(C(CC1)=O)Br | C13H14BrNO3
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-benzyloxycarbonyl-2-mercapto-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 0.14 g | C(C1=CC=CC=C1)OC(=O)N1CC2=C(CC1)N=C(S2)S | C14H14N2O2S2
